US08633237B2
d) N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
A mixture of N-(5-bromo-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (2.20 g, 6.9 mmol), potassium acetate (2.01 g, 20.5 mmol), bis(pinacolato)diboron (2.10 g, 8.3 mmol), and 1,1-BIS(diphenylphosphino)ferrocenepalladium(II)dichloride (240 mg, 0.29 mmol) in DMSO (40 mL) was stirred at 90° C. for 3 h. The reaction was cooled to rt and filtered over Kiezelguhr gel. The filter cake was rinsed with EtOAc before the filtrate was diluted with EtOAc (200 mL) and washed with brine (3×200 mL). The organic phase was dried over sodium sulfate, filtered, and concentrated under reduced pressure to afford a brown/yellow oil. The residue was purified by flash column chromatography (EtOAc/heptane, from 0% to 50% of heptane) to afford the title compound as a white foam. (2.49 g, 99%). MS (ESI): m/z [M+NH4]+ 317.0

reactant | N-(5-bromo-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 6.9 mmol, 2.20 g | BrC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C12H16BrNO2S
reactant | potassium acetate | 20.5 mmol, 2.01 g | C(C)(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 8.3 mmol, 2.10 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMSO | 40 mL | CS(=O)C | C2H6OS
product | N-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | CC1(OB(OC1(C)C)C=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C)C | C18H28BNO4S
